Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pneumothorax post port placement
 
Major Surgical or Invasive Procedure:
Placement of left subclavian Port-A-Cath under fluoroscopy
 
History of Present Illness:
Mr. ___ is a ___ year old male with a medical history of 
Gastric Cancer.  He presented at ___ on ___ for the 
placement of a left subclavian port under fluoroscopy for 
initiation of neoadjuvant chemotherapy.  Post-operative x-ray 
showed a small left apical pneumothorax.  Repeat x-ray showed 
interval enlargement of the pneumothorax without evidence of 
tension so he was admitted for observation, O2 therapy, and 
repeat chest film the following day. 
 
Past Medical History:
Past Medical History
H Pylori gastritis,
GERD,
iron deficiency anemia
hemorroids

Past Surgical History
two shoulder arthroscopies
 
Social History:
___
Family History:
No family history of colon, gastric, esophageal cancer, or IBD
 
Physical Exam:
Gen: NAD
Resp: CTAB, unlabored, decreased breath sounds at left apex
Chest: L port site c/d/I, histoacryl over incisions. No 
erythema. Soft, no hematoma. 
CV: RRR
Abd: s/nt/nd
 
Pertinent Results:
CXR: ___: 8:51 AM
IMPRESSION:
1. New left Port-A-Cath with tip in the distal SVC.
2. Small left apical pneumothorax with partial collapse of the 
left upper
lobe, without evidence of tension.

CXR: ___: 12:05 ___
IMPRESSION: 
 Compared to ___ at 08:51, increased size of left 
apical pneumothoraxwith persistent volume loss in the left upper 
lobe, but no evidence of tension.  Otherwise, unchanged.

 CXR: ___ 9:28 AM 
Compared to ___, the left apical pneumothorax is not 
significantly changed in size. There is no evidence of tension. 
There is improved ventilation of the lung bases. Previously seen 
left upper lobe opacification is less distinct. The 
cardiomediastinal and hilar contours are normal and unchanged. 
No pulmonary edema or pleural effusions. 
  
IMPRESSION: 
1. Compared to ___, no significant change in appearance 
of the left  apical pneumothorax, without evidence of tension. 
2. Improved ventilation of the left upper lobe and bilateral 
lung bases. 

 
Brief Hospital Course:
Mr. ___ underwent a left subclavian port placement on 
___.  The port and wire were placed without difficulty, and 
intraoperative chest xray confirmed placement of the line in the 
right atrium.  Post operative xray showed a small apical left 
pneumothorax without evidence of tension.  Repeat cxr 3 hours 
later showed interval enlargement of the pneumothorax, still 
without evidence of tension.  The remained largely asymptomatic, 
but was admitted to ___ for observation.

Since admission he was placed on 2L NC of oxygen and has 
relatively asymptomatic.  He endorses some mild tenderness at 
the port insertion site. His O2 sats have ranged from 98-100% on 
2L NC and he has denied SOB. He had no change in symptoms when 
oxygen was removed. He had no acute overnight events. Repeat 
xray on POD1 showed stable size of the pneumothorax from the 
prior film. His medical oncologist was notified of the 
pneumothorax and we will plan to have him undergo a repeat CXR 
within the next week when he returns for an appointment. He will 
be contacted regarding scheduling. He will have close follow up 
with Dr. ___ as well while undergoing neoadjuvant chemotherapy 
for surgical planning. He is cleared to undergo tooth extraction 
today. 
 
Medications on Admission:
omeprazole 40 mg BID
sucralfate 1 gm
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*10 
Tablet Refills:*0 
3.  Omeprazole 40 mg PO BID  
4.  Sucralfate 1 gm PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumothorax, gastric adenocarcinoma
 
Discharge Condition:
Mental status: clear and coherent
Level of consciousness: Alert and interactive
Activity status: ambulatory--independent
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You under went a left subclavian port placement 
which was complicated by a left pneumothorax.  You are now safe 
to return home with the following Instructions.

Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, 
diarrhea,or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed. Please get plenty of rest, 
continue to ambulate several times per day, and drink adequate 
amounts of fluids.   Avoid driving or operating heavy machinery 
while taking pain medications. 

Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
 
Followup Instructions:
___